US07169749B1
3.04 kg (20 moles) α-campholene aldehyde
3.04 kg of campholene aldehyde and 2 kg of toluene were introduced into a 10-liter glass reactor and 2.9 kg of propionaldehyde, 170 g of piperidine and 120 g of glacial acetic acid were added with stirring at room temperature. The mixture was then refluxed for 4 hours on a water separator, 680 ml of water of reaction being removed from the circuit. Analysis of a sample of the reaction mixture by gas chromatography revealed a percentage content of 15% of unreacted educt. Accordingly, another 85 g of piperidine and 60 g of glacial acetic acid were added. After refluxing for another hour, another 120 g of water were removed from the circuit and the educt was completely reacted.

reactant | toluene | 2 kg | C1(=CC=CC=C1)C | C7H8
reactant | propionaldehyde | 2.9 kg | C(CC)=O | C3H6O
reactant | piperidine | 170 g | N1CCCCC1 | C5H11N
reactant | acetic acid | 120 g | C(C)(=O)O | C2H4O2
solvent | water | 680 ml | O | H2O
product | α-campholene aldehyde | CC1=CCC(C1(C)C)CC=O | C10H16O
